US04284644
To a mixture of 32 g of methyl 5-benzyloxysalicylate, 17 g of anhydrous potassium carbonate and 500 ml of acetone was added 30.7 g of α-bromo-γ-butyrolactone under cooling with ice and, then, the mixture was refluxed for 15 hours. After cooling, the acetone was distilled off and 10% methanolic sodium hydroxide was added to the residue for hydrolysis. The reaction mixture was made acidic with hydrochloric acid and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous sodium sulfate and distilled to remove the solvent. The residue was dissolved in dioxane (300 ml)-benzene (200 ml) and the solution was refluxed in the presence of p-toluenesulfonic acid (30 g), with the resultant water being continuously distilled off. The solvent was distilled off and the residue was diluted with water and extracted with ethyl acetate. The extract was washed with water, dried and concentrated to remove the solvent. The residue was recrystallized from ethyl acetate. By the above procedure there was obtained α-[(2-carboxy-4-benzyloxyphenyl)oxy]-γ-butyrolactone as colorless needles, m.p. 120°-122° C.

reactant | methyl 5-benzyloxysalicylate | 32 g | C(C1=CC=CC=C1)OC1=CC=C(C(C(=O)OC)=C1)O | C15H14O4
reactant | potassium carbonate | 17 g | C([O-])([O-])=O.[K+].[K+]
reactant | α-bromo-γ-butyrolactone | 30.7 g | BrC1C(=O)OCC1 | C4H5BrO2
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | α-[(2-carboxy-4-benzyloxyphenyl)oxy]-γ-butyrolactone | C(=O)(O)C1=C(C=CC(=C1)OCC1=CC=CC=C1)OC1C(=O)OCC1 | C18H16O6
